US05482967
To a mixture of 4-(2-chlorophenyl)-6,7-dimethyl-3-quinolinecarboxylic acid ethyl ester (26.5 g), sodium borohydride (6.0 g) and ethanol (150 ml) was heated under reflux for 2 hours. After the solvent was distilled off, water was added to the residue, followed by extraction with ethyl acetate. After the extract was washed with water and dried, the solvent was distilled off. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=3:1) to yield 4-(2-chlorophenyl)-1,4-dihydro-6,7-dimethyl-3-quinolinecarboxylic acid ethyl ester as colorless crystals (5.0 g).

reactant | 4-(2-chlorophenyl)-6,7-dimethyl-3-quinolinecarboxylic acid ethyl ester | 26.5 g | C(C)OC(=O)C=1C=NC2=CC(=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C20H18ClNO2
reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(2-chlorophenyl)-1,4-dihydro-6,7-dimethyl-3-quinolinecarboxylic acid ethyl ester | 5.0 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C20H20ClNO2
